US04220644
A mixture of 16.5 g. (0.1 mol.) of methyl carboxymethyldithiocarbamate and 14.3 g. (0.22 mol.) of sodium azide in 150 ml. of water was heated at 56° for 12 hours. The reaction mixture was extracted with ether, then acidified to pH 1.5 with dilute hydrochloric acid and extracted with ethyl acetate. The extract was dried (MgSO4) and evaporated to dryness to give 1-carboxymethyl-tetrazole-5-thiol, m.p. 178°-179°.

reactant | methyl carboxymethyldithiocarbamate | 0.1 mol | C(=O)(O)CNC(SC)=S | C4H7NO2S2
reactant | sodium azide | 0.22 mol | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
product | 1-carboxymethyl-tetrazole-5-thiol | C(=O)(O)CN1N=NN=C1S | C3H4N4O2S
